US04880809
A mixture of 6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-2-naphthoic acid methyl ester (1.5 g) and powdery sulfur (0.5 g) is heated at 200-210° C. for 2 hours. The reaction mixture is, after cooling, purified by silica gel column chromatography (hexane:ethyl acetate=2:1), followed by crystallization from a mixture of ethyl ether and petroleum ether to afford 6,7-dimethoxy-1-hydroxy-2-napthoic acid methyl ester (0.3 g) as colorless needles, m.p. 144°-145° C.

reactant | 6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-2-naphthoic acid methyl ester | 1.5 g | COC(=O)C1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C14H16O5
reactant | sulfur | 0.5 g | [S] | S
product | 6,7-dimethoxy-1-hydroxy-2-napthoic acid methyl ester | 0.3 g | COC(=O)C1=C(C2=CC(=C(C=C2C=C1)OC)OC)O | C14H14O5
